US06172064B2
To a solution of (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one (400 mg, 0.78 mmol) in 1 mL of dimethylformamide is added 2-bromothiophene (152 mg, 0.93 mmol) and triphenyphosphine palladium (II) dichloride (27 mg, 0.04 mmol). The resulting solution is heated at 80° C. for 2 h, then 0.5 mL ammonium hydroxide is added. The reaction mixture is poured into saturated sodium chloride solution (20 mL) and extracted with 1:1 ethyl acetate/hexane (50 mL). The combined organic layers were dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and purified by silica gel chromatography (elution with 3:1 hexanes-ethyl acetate) to provide (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(thiophene-2-yl)-2-propene-1-yl)-4-methylazetidin-2-one as an oil (130 mg, 54% yield).

reactant | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one | 0.78 mmol, 400 mg | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\[Sn](CCCC)(CCCC)CCCC)=O
reactant | 2-bromothiophene | 0.93 mmol, 152 mg | BrC=1SC=CC1 | C4H3BrS
reactant | ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | triphenyphosphine palladium (II) dichloride | 0.04 mmol, 27 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(thiophene-2-yl)-2-propene-1-yl)-4-methylazetidin-2-one | 130 mg, 54% yield | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\C=1SC=CC1)=O | C16H21NO3S
